US07253164B2
2,N-Dihydroxy-2-(3-oxo-3,4-dihydro-2H-benzo[1,4]thiazin-2-yl)-acetamide
The crude 2-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-yl)-4H-benzo[1,4]thiazin-3-one (0.036 mmol) is dissolved in 0.5 mL of THF and 0.5 mL of NH2OH (1N in MeOH) is added to the mixture. After the addition, the mixture is stirred at 60° C. for 3 hours. The solvent is then removed under vacuum and the residue is purified by preparative thin layer chromatography (silica gel, 10% MeOH/CH2Cl2) to provide the title compound 2,N-dihydroxy-2-(3-oxo-3,4-dihydro-2H-benzo[1,4]thiazin-2-yl)-acetamide. Yield: 70%. 1H NMR (400 MHz, MeOD) δ 7.30 (dd, 1H, J=1.29 Hz, J=8.0 Hz), 7.18, (dt, 1H, J=1.3 Hz, J=8.0 Hz), 7.01 (dt, 1H, J=1.3 Hz, J=8.0 Hz), 6.95 (dd, 1H, J=1.3 Hz, J=8.0 Hz), 4.74 (d, 1H, J=3.80), 3.97 (d, 1H, J=3.8). MS: (ES+): 255.1[M+1].

reactant | 2-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-yl)-4H-benzo[1,4]thiazin-3-one | 0.036 mmol | CC1(OC(C(O1)C1SC2=C(NC1=O)C=CC=C2)=O)C | C13H13NO4S
reactant | NH2OH | 1N, 0.5 mL | NO | H3NO
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 2,N-dihydroxy-2-(3-oxo-3,4-dihydro-2H-benzo[1,4]thiazin-2-yl)-acetamide | OC(C(=O)NO)C1SC2=C(NC1=O)C=CC=C2 | C10H10N2O4S
